US07884207B2
A mixture of 1-({[2-(dibenzylamino)-5,6-dimethyl-3-nitropyridin-4-yl]amino}methyl)cyclohexanol (4.00 g, 8.43 mmol) and 5% platinum on carbon (0.40 g) in ethyl acetate (84 mL) was hydrogenated at 50 psi (3.4×105 Pa) for 3 h on a Parr apparatus. The reaction mixture was filtered through CELITE filter agent, which was rinsed with ethyl acetate afterwards. The filtrate was concentrated to give 1-({[3-amino-2-(dibenzylamino)-5,6-dimethylpyridin-4-yl]amino}methyl)cyclohexanol and was used directly in the next step.

reactant | 1-({[2-(dibenzylamino)-5,6-dimethyl-3-nitropyridin-4-yl]amino}methyl)cyclohexanol | 8.43 mmol, 4.00 g | C(C1=CC=CC=C1)N(C1=NC(=C(C(=C1[N+](=O)[O-])NCC1(CCCCC1)O)C)C)CC1=CC=CC=C1 | C28H34N4O3
catalyst | platinum on carbon | 0.40 g | [Pt] | Pt
solvent | ethyl acetate | 84 mL | C(C)(=O)OCC | C4H8O2
product | 1-({[3-amino-2-(dibenzylamino)-5,6-dimethylpyridin-4-yl]amino}methyl)cyclohexanol | NC=1C(=NC(=C(C1NCC1(CCCCC1)O)C)C)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C28H36N4O
